US07709500B2
Step 2: (2R)-1-amino-3-[4-(3,4-dichlorophenoxy)piperidin-1-yl]propan-2-ol
(S)-2-[3-[4-(3,4-Dichlorophenoxy)-1-piperidinyl]-2-hydroxypropyl]-1H-isoindole-1,3(2H)-dione (4 g) in ethanol (100 ml) was treated with 20 ml of hydrazine monohydrate and the resulting mixture was refluxed for 3 h. The reaction was cooled and filtered. The filtrate was evaporated and the product was chromatographed (ethyl acetate) to give the title compound as a yellow oil which solidified on standing (2.5 g).

reactant | (S)-2-[3-[4-(3,4-Dichlorophenoxy)-1-piperidinyl]-2-hydroxypropyl]-1H-isoindole-1,3(2H)-dione | 4 g | ClC=1C=C(OC2CCN(CC2)C[C@@H](CN2C(C3=CC=CC=C3C2=O)=O)O)C=CC1Cl | C22H22Cl2N2O4
reactant | hydrazine monohydrate | 20 ml | O.NN
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | (2R)-1-amino-3-[4-(3,4-dichlorophenoxy)piperidin-1-yl]propan-2-ol | NC[C@H](CN1CCC(CC1)OC1=CC(=C(C=C1)Cl)Cl)O | C14H20Cl2N2O2
